US05958918
A. 7-Methoxynaphthalene-2-sulfonic acid-[1-(2-cyanopyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methylamide
The title compound is prepared from 7-methoxynaphthalene-2-sulfonic acid-[1-(2-cyanopyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide as described in EXAMPLE 141, Part D using methyl iodide in place of benzyl bromide. The crude product is purified by column chromatography eluting with gradient of 20% EtOAc/CH2Cl2 to 40% EtOAc/CH2Cl2 to afford the title compound as a white solid.

reactant | 7-methoxynaphthalene-2-sulfonic acid-[1-(2-cyanopyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=NC=CC(=C1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C22H20N4O4S
reactant | methyl iodide | CI | CH3I
product | 7-Methoxynaphthalene-2-sulfonic acid-[1-(2-cyanopyridin-4-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methylamide | C(#N)C1=NC=CC(=C1)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)C)=O | C23H22N4O4S
